US04160834
2-Amino-6-trifluoromethylpyrazine
A mixture of 6.6 g. of 3,3-dibromo-1,1,1-trifluoropropanone, 60 ml. of water, and 6.6 g. sodium acetate was refluxed for about 10 minutes. The solution thus obtained was cooled and added dropwise to a solution of 6 g. of aminoacetamidine dihydrobromide in 90 ml. of methanol cooled to a temperature of about -30° C., followed by the addition of a solution of 3.6 g. of sodium hydroxide pellets in 25 ml. of water. The reaction mixture was stirred and warmed gradually to about 20° C. over a period of about two hours. The reaction product mixture was concentrated in vacuo to remove the methanol, and the residue extracted with ethyl acetate. There was obtained product weighing 3.6 g. and having a melting point of about 133°-136° C. after recrystallization from a mixture of benzene and hexane. The product was identified by NMR spectrum and elemental analyses as 2-amino-6-trifluoromethylpyrazine.

reactant | 3,3-dibromo-1,1,1-trifluoropropanone | BrC(C(C(F)(F)F)=O)Br | C3HBr2F3O
reactant | sodium acetate | C(C)(=O)[O-].[Na+]
reactant | aminoacetamidine dihydrobromide | Br.Br.NCC(=N)N
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | O | H2O
solvent | methanol | CO | CH4O
product | 2-Amino-6-trifluoromethylpyrazine | NC1=NC(=CN=C1)C(F)(F)F | C5H4F3N3
